US05202437
To a solution of (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (10.37 g) in dimethylformamide (100 ml) was added N-methylpiperazine (5.45 ml) and the mixture was stirred at 80°-90° C. for 5 hours. The reaction mixture was poured into ice-water (300 ml) and extracted twice with ethyl acetate (200 ml). The extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fraction containing the desired compound were collected and evaporated in vacuo to give (2S ,4S) 2-(4-methylpiperazin-1-yl)-1-(4-nitrobenzyloxy carbonyl)-4-(triphenylmethylthio)pyrrolidine (6.87 g).

reactant | (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 10.37 g | CS(=O)(=O)O[C@@]1(N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C33H32N2O7S2
reactant | N-methylpiperazine | 5.45 ml | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (2S ,4S) 2-(4-methylpiperazin-1-yl)-1-(4-nitrobenzyloxy carbonyl)-4-(triphenylmethylthio)pyrrolidine | 6.87 g | CN1CCN(CC1)[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H38N4O4S
